US08207334B2
Preparation of 3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid 4-fluoro-benzylamide compound with 4-fluorobenzylamine
3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid methyl ester (100 mg, 0.427 mmol) was suspended in MeOH (10 mL) and to this was added 4-fluorobenzylamine (122 μL, 1.07 mmol) and the reaction was heated at reflux for 2 days before being cooled to room temperature and filtered. The filtrate was concentrated and recrystalised from hot methanol to afford the product a yellow solid (25 mg, 18%).

reactant | 3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid methyl ester | 0.427 mmol, 100 mg | COC(=O)C=1N=C2N(C(C1O)=O)NC=C2C#N | C9H6N4O4
reactant | 4-fluorobenzylamine | 1.07 mmol, 122 μL | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | MeOH | 10 mL | CO | CH4O
product | 3-Cyano-6-hydroxy-7-oxo-1,7-dihydro-pyrazolo[1,5-a]pyrimidine-5-carboxylic acid 4-fluoro-benzylamide compound with 4-fluorobenzylamine | 25 mg, 18% | FC1=CC=C(CN)C=C1.FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)NC=C3C#N)C=C1 | InChI=1S/C15H10FN5O3.C7H8FN/c16-10-3-1-8(2-4-10)6-18-14(23)11-12(22)15(24)21-13(20-11)9(5-17)7-19-21;8-7-3-1-6(5-9)2-4-7/h1-4,7,19,22H,6H2,(H,18,23);1-4H,5,9H2
